US08492582B2
Trifluoroacetic acid (6.0 mL) was added to 2-(benzyloxy)-5-(pyridin-3-yl)benzoic acid (0.31 g), followed by stirring at room temperature for 3 hours. The solvent was evaporated under reduced pressure, and ethyl acetate was added to the obtained residue. The solid substance was collected by filtration to obtain 2-hydroxy-5-(pyridin-3-yl)benzoic acid as a white solid.

reactant | Trifluoroacetic acid | 6.0 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 2-(benzyloxy)-5-(pyridin-3-yl)benzoic acid | 0.31 g | C(C1=CC=CC=C1)OC1=C(C(=O)O)C=C(C=C1)C=1C=NC=CC1 | C19H15NO3
product | 2-hydroxy-5-(pyridin-3-yl)benzoic acid | OC1=C(C(=O)O)C=C(C=C1)C=1C=NC=CC1 | C12H9NO3
